US04065617
A. 3,5-dibenzylidene-1-methyl-4-piperidone, hydrochloride
A solution of 57.0 g of 1-methyl-4-piperidone and 106.0 g of benzaldehyde in 400 ml of ethanol is cooled in an ice-bath and treated with hydrogen chloride gas until 250 g is absorbed. The solution is allowed to stand at room temperature for about 16 hours. The resulting solution is seeded, allowed to stand for about 16 hours at room temperature and the crystalline solid filtered on a sintered-glass funnel and washed with cold ethanol and then with ether. After drying in a desiccator, the solid (146 g) is digested in 400 ml of hot ethanol, cooled and filtered to give 120 g of product, melting point 242°-244° C, dec. Recrystallization of 11 g of this material from 35 ml of dimethylformamide gives 9.2 g of product, melting point 242°-244° C, dec.

reactant | 1-methyl-4-piperidone | 57.0 g | CN1CCC(CC1)=O | C6H11NO
reactant | benzaldehyde | 106.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 3,5-dibenzylidene-1-methyl-4-piperidone, hydrochloride | 120 g | Cl.C(C1=CC=CC=C1)=C1CN(CC(C1=O)=CC1=CC=CC=C1)C | InChI=1S/C20H19NO.ClH/c1-21-14-18(12-16-8-4-2-5-9-16)20(22)19(15-21)13-17-10-6-3-7-11-17;/h2-13H,14-15H2,1H3;1H
